Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Beta-Blockers (Beta-Adrenergic Blocking Agts)
 
Attending: ___.
 
Chief Complaint:
pericardial effusion with cardiac tamponade
 
Major Surgical or Invasive Procedure:
pericardiocentesis and drain placement
 
History of Present Illness:
Ms. ___ is a ___ F with a distant PMH of breast cancer who 
was transferred to ___ ___ from ___ 
where she had presented from her rehab with progressive dyspnea 
x 2 weeks. At ___, she was seen by pulmonary for a large left 
sided pleural effusion found on chest radiograph.  CT scan of 
the chest showed large left pleural effusion and a moderate to 
large right pleural effusion w/o lymphadenopathy. There were 
diffuse interstital abnormalities of the left lung concerning 
for lymphangitic spread of tumor. She underwent a thoracentesis 
which showed a pH 7.4, LDH 248, c/w exudative effusion, with 
gram stain negative and NGTD on culture and pending cytology. 
She was treated with a 5 day course of ceftriaxone. A TTE showed 
a moderate sized paricardial effusion with no signs of 
tamponade. The patient was transferred here at the family's 
request.  
.
Upon arrival to ___, she underwent repeat transthoracic echo 
on ___ which revealed preserved EF of 55% but also showed a 
pericardial effusion with sustained RA collapse and right 
ventricular diastolic collapse, consistent with cardiac 
tamponade. She was taken to the cath lab for pericardiocentesis.
.
Prior to her admission, she denied fevers, chills, or any viral 
syndrome, but endorsed nausea and constipation for several 
months. However, she did move her bowels this AM prior to going 
for echo. She denies chest pain. She reports decreased energy 
since her pelvic fracture in ___, for which she was at 
rehab prior to ___ presentation. She reports increased thirst 
and some increased "thickness" of her legs since her pelvic 
fracture. At rehab, she was most recently walking with the 
assistance of a walker. Othewise, otherwise all other ROS were 
negative in detail.  
 
Past Medical History:
# Breast Cancer:  
# s/p lumpectomy of left breast, XRT and tamoxifen  
# s/p lumpectomy of right breast  
# Afib: diagnosed ___, not on anticoagulation  
# s/p Pelvic fracture  
# frequent UTIs  
# hypertension  
# h/o cholecystitis
# osteoporosis
 
Social History:
___
Family History:
Per transfer record, Mother and father possibly died of stroke. 
No history of lung cancer. 
 
Physical Exam:
On admission - 

VITAL SIGNS: afebrile 119/54 86 20 95-98% 3L NC
GENERAL: elderly woman, no acute distress, c/o mild chest pain.  

HEENT: Normocephalic, atraumatic. + mild pallor. No scleral 
icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD.
NECK: No carotid bruits. JVP not grossly distended, prominant 
EJs
CARDIAC: Irregularly irregular. S1/S2. No murmurs appreciated.
LUNGS: Decreased air movement overall, with diminished breath 
sounds at bases bilaterally. No appreciable 
consolidation/dullness to percussion.  
ABDOMEN: Moderately distended, tympanic to percussion. 
Non-tender. No HSM appreciated. NABS.
GROIN: R groin femoral arterial and venous sheaths removed, no 
oozing or hematoma noted.
EXTREMITIES: cool extremities with 2+ ___ edema bilaterally, no 
calf pain, 1+ DP pulses.  
SKIN: No rashes/lesions/ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation to LT, moves all extremities equally. Gait assessment 
deferred.
PSYCH: Listens and responds to questions appropriately
 
Pertinent Results:
==========
Labs
==========

___ 06:35AM BLOOD WBC-13.6*# RBC-4.81 Hgb-13.7 Hct-42.6 
MCV-89 MCH-28.4 MCHC-32.1 RDW-16.1* Plt ___
___ 01:30PM BLOOD WBC-14.5* RBC-4.41 Hgb-12.6 Hct-38.3 
MCV-87 MCH-28.5 MCHC-32.8 RDW-16.1* Plt ___
___ 05:33AM BLOOD WBC-11.7* RBC-4.34 Hgb-12.2 Hct-37.6 
MCV-87 MCH-28.0 MCHC-32.3 RDW-16.3* Plt ___
___ 06:40AM BLOOD WBC-12.4* RBC-4.26 Hgb-12.0 Hct-37.2 
MCV-87 MCH-28.3 MCHC-32.4 RDW-16.2* Plt ___
___ 06:35AM BLOOD Glucose-136* UreaN-31* Creat-1.0 Na-133 
K-5.2* Cl-96 HCO3-24 AnGap-18
___ 01:30PM BLOOD Glucose-159* UreaN-29* Creat-1.0 Na-129* 
K-5.0 Cl-95* HCO3-23 AnGap-16
___ 05:33AM BLOOD Glucose-119* UreaN-27* Creat-0.8 Na-131* 
K-5.3* Cl-98 HCO3-26 AnGap-12
___ 06:40AM BLOOD Glucose-111* UreaN-27* Creat-0.9 Na-132* 
K-5.3* Cl-97 HCO3-25 AnGap-15
___ 06:35AM BLOOD ALT-44* AST-47* LD(LDH)-375* AlkPhos-190* 
TotBili-0.7
___ 06:35AM BLOOD Albumin-3.6 Calcium-8.3* Phos-3.2 Mg-3.0*
___ 06:35AM BLOOD Digoxin-1.8
.
Pericardial Fluid
Cytology - NEGATIVE FOR CARCINOMA.
___ 07:16PM OTHER BODY FLUID WBC-500* ___ Polys-5* 
Lymphs-87* ___ Macro-8*
___ 07:16PM OTHER BODY FLUID TotProt-4.3 Glucose-137 
___ Amylase-28 Albumin-2.6
___ 1:00 pm FLUID,OTHER      PERICARDIAL. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
.

=============
Cardiology
=============

TTE ___
Overall left ventricular systolic function is normal (LVEF>55%). 
There is a moderate sized pericardial effusion. There is 
sustained right atrial collapse, consistent with low filling 
pressures or early tamponade. There is right ventricular 
diastolic collapse, consistent with impaired fillling/tamponade 
physiology.   
.
TTE ___ 
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). Significant aortic 
regurgitation is present, but cannot be quantified. Mitral 
regurgitation is present but cannot be quantified. There is a 
trivial/physiologic pericardial effusion. There are no 
echocardiographic signs of tamponade. 
Compared with the prior study (images reviewed from post tap) of 
___, no change.   
.
Cardiac Cath ___
1. Emergent pericardiocentesis for pericardial tamponade with 
removal of 
380 cc of bloody fluids. 
2. Persistent elevation of pericardial pressure indicative of 
constrictive effusive etiology. 
3. Pericardial drain left in place. 
4. Repeat 2D echocardiogram in AM. 

.
============
Radiology
============
Chest X ray ___
 
Bilateral pleural effusions have not significantly changed in 
the interim and the slightly better aeration of the right lung 
base may be due to 
redistribution of the fluid. The pericardial drainage has been 
removed. There is no pneumothorax. There is no evidence of 
pneumomediastinum. 
.
Chest X ray ___
Bilateral pleural effusions, larger on the left. No 
pneumothorax. 

 
Brief Hospital Course:
___ yo woman with a history of breast cancer who is transferred 
to the CCU after TTE revealed pericardial effusion cuasing 
tamponade physiology, s/p pericardiocentesis and drain 
placement.
.
# Pericardial effusion with tamponade - Had pericardiocentesis 
and drain placement ___ with subsequent removal the following 
day. Given persistently elevated pericardial pressures after 
drainage, this is likely constrictive disease. Etiology thought 
to be likely malignant given history of BrCA and coincident 
pleural effusions with CT chest showing suspicion of 
lymphangitic spread of CA, but cytology was negative. However, 
sensitivity for cytology is only between 67 and 92 percent. 
Cultures from pericardial fluid no growth to date at time of 
discharge. Repeat TTE showed no signs of tamponade. Patient was 
started on indocin for pain. She was monitored for 24 hours in 
the CCU before transfer to the floor. Plan for patient to have 
cardiology follow up with repeat TTE next week. 
.
#. Pleural effusions - these were most suspicious for malignancy 
given that OSH CT scan also with interstial process of the left 
lung. Has large right pleural effusion that has not been tapped. 
There was no evidence of empyema or parapneumonic effusion. Pt 
now s/p 5 day course of ceftriaxone at OSH. No current evidence 
of pneumonia. CXR over 2 days showed stability. Cytology will 
need to be followed up from ___ (___).  Patient 
was maintained on oxygen while in house to keep peripheral 
saturations greater than 90. 
.  
#. Afib: Recently diagnosed. On diltiazem and digoxin for rate 
control. Not currently anticoagulated given fall risk and 
possible procedures. Dig level ok at 1.8. Continued on diltiazem 
and digoxin for rate control, but digoxin changed to 0.125 mg 
daily. Discharged without anticoagulation pending followup with 
cardiology next week. Please hold all anticoagulation until 
after patient is seen in follow-up.   
.  
#. Failed voiding trial: Foley removed 1 day prior to discharge 
but did not void. Foley was replaced on the day of dicharge with 
appropriate urine output. 
.
# CODE STATUS:
-- After discussion with patient and family, she is DNR/DNI 
.
# EMERGENCY CONTACT:  
-- HCP ___ ___  
. 
# DISPOSITION:
-- D/c back to Nursing Home 
 
Medications on Admission:
REHAB MEDICATIONS:  
Lasix 60mg  
Digoxin  
DuoNeb  
Cardizem CD 360mg daily  
MV with minerals  
Vitamin D 100u Daily  
ASA 325 daily  
calcium 500mg BID
Fosamax 70mg weekly  
Florastor 250mg BID  
oxycodone PRN  
Colace 100mg BID  
fondaparinux 2.5mg sc daily  
Trazodone 25mg QHS PRN insomnia  
Acetaminophen PRN
 
Discharge Medications:
1. Cardizem SR 120 mg Capsule, Sust. Release 12 hr Sig: Three 
(3) Capsule, Sust. Release 12 hr PO once a day.  
2. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Polyethylene Glycol 3350 100 % Powder Sig: Seventeen (17) 
grams PO DAILY (Daily) as needed for constipation.  
4. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
once a day as needed for constipation.  
5. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO three 
times a day.  
6. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
9. Alendronate 70 mg Tablet Sig: One (1) Tablet PO WEEKLY (): 
Give on ___.  
10. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
11. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
12. Indomethacin 25 mg Capsule Sig: Three (3) Capsule PO BID (2 
times a day) as needed for pain.  
13. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
14. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
15. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day: While pt taking 
indomethecin only.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bilateral Pleural Effusions
Pericardial Effusion
Atrial Fibrillation: currently not on anticoagulation

 
Discharge Condition:
stable

 
Discharge Instructions:
You had trouble breathing and was admitted to ___ 
___ where some fluid was taken out of your lungs and did not 
show signs of infection or cancer. They also found some fluid 
around your heart and you were admitted to ___. The 
fluid was drained off and a repeat ECHO does not show 
reaccumulation of the fluid. The culture and cytology tests are 
pending on that fluid. You will need another ECHO in 3 weeks to 
check to see if the fluid reaccumulates. 
Medication changes:
1. Your digoxin was decreased to 0.125mg daily
2. Indomethecin: to take for chest pain
3. Omeprazole: to protect your stomach from Indomethecin.
4. Please hold comadin for now
.
Please call Dr. ___ Dr. ___ your breathing or chest 
pain worsens, if you have vomiting or fevers or if you have any 
other unusual symptoms. 
 
Followup Instructions:
___